US04935413
To a solution of acryloyl isocyanate (9.7 g; 100 mmol) in dichloroethane (20 g), a solution of t-butanol (7.4 g; 100 mmol) in dichloroethane (20 g) was dropwise added under ice-cooling in 5 minutes. The solvent was removed by evaporation under reduced pressure to give t-butyl N-acryloylcarbamate as crude crystals, which were recrystallized from chloroform to give colorless needles. M.P., 131°-132° C.

reactant | acryloyl isocyanate | 100 mmol, 9.7 g | C(C=C)(=O)N=C=O | C4H3NO2
reactant | t-butanol | 100 mmol, 7.4 g | C(C)(C)(C)O | C4H10O
solvent | dichloroethane | 20 g | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20 g | ClC(C)Cl | C2H4Cl2
product | t-butyl N-acryloylcarbamate | C(C=C)(=O)NC(OC(C)(C)C)=O | C8H13NO3
